US04595683
Benzylsulfamic acid
Benzylisocyanate (13.3 g) is added dropwise to a stirred mixture of nitromethane (160 ml) and 15% fuming sulfuric acid (5.4 ml) at about 10° C. The reaction mixture is refluxed for about one hour, cooled to RT and the solid filtered and washed with nitromethene. The solid is suspended in ether, filtered, dried and used as a crude solid in the next step.

reactant | Benzylisocyanate | 13.3 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | sulfuric acid | 5.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | nitromethane | 160 ml | [N+](=O)([O-])C | CH3NO2
product | Benzylsulfamic acid | C(C1=CC=CC=C1)NS(O)(=O)=O | C7H9NO3S
